US09029545B2
Ethyl 4-{[(3-chlorophenyl)sulfonyl]amino}-2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylate
To a stirred solution of ethyl 4-amino-2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylate (Description 82) (1.54 g, 3.37 mmol) in THF (30 mL) was added sodium tert-butoxide (1.294 g, 13.46 mmol) at RT and the mixture stirred for 15 min before 3-chlorobenzenesulfonyl chloride (0.948 mL, 6.73 mmol) was added. The resulting mixture was then stirred for ca. 3.5 h. Saturated NH4Cl solution (50 mL) was then added to the mixture which was extracted with ethyl acetate (30 mL×3). The combined organics were washed with brine (30 mL), dried and concentrated. The residue was purified by normal phase chromatography, eluting with a gradient of 0-30% ethyl acetate in cyclohexane, to give the title compound (600 mg). LCMS (A) m/z: 632 [M+1]+, Rt 1.74 min (acidic).

reactant | ethyl 4-amino-2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylate | 3.37 mmol, 1.54 g | NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2C2=CC(=CC=C2)OC)NC(=O)OC(C)(C)C | C23H27N3O5S
reactant | sodium tert-butoxide | 13.46 mmol, 1.294 g | CC(C)([O-])C.[Na+]
reactant | 3-chlorobenzenesulfonyl chloride | 6.73 mmol, 0.948 mL | ClC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | NH4Cl | 50 mL | [NH4+].[Cl-]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | Ethyl 4-{[(3-chlorophenyl)sulfonyl]amino}-2-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-6-methyl-3-[3-(methyloxy)phenyl]thieno[2,3-b]pyridine-5-carboxylate | 600 mg | ClC=1C=C(C=CC1)S(=O)(=O)NC1=C2C(=NC(=C1C(=O)OCC)C)SC(=C2C2=CC(=CC=C2)OC)NC(=O)OC(C)(C)C | C29H30ClN3O7S2
